US07595397B2
(2-Hydroxy-ethyl)-(2-hydroxy-3-methyl-butyl)-carbamic acid tert-butyl ester
The above compound could be made in the following manner: 1 eq. 1-(2-Hydroxy-ethylamino)-3-methyl-butan-2-ol and 1.1 eq. di-t-butyl dicarbonate in methylene chloride could be stirred together at room temperature and 1.5 eq. triethylamine could be added. The solution could be stirred at room temperature overnight. The solution could be then poured into water and extracted with methylene chloride. The combined organics could be washed with brine and dried with sodium sulfate. After filtration, the crude material could be purified by flash chromatography.

reactant | 1-(2-Hydroxy-ethylamino)-3-methyl-butan-2-ol | OCCNCC(C(C)C)O | C7H17NO2
reactant | di-t-butyl dicarbonate | 1.1 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2-Hydroxy-ethyl)-(2-hydroxy-3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC(C(C)C)O)CCO)=O | C12H25NO4
